* C:\Users\mjach\Nitrox_analyzer_project\STM32Sheild\Active filter-amp simulation\First order active filter amplifyer.asc
* Generated by LTspice 26.0.2 for Windows.
R4 Vout N003 2.2k
R1 N002 0 1k
R2 N003 N002 330k
C2 Vout 0 10µ
V1 Vsig 0 SINE(9m 2m 1 0.001 0.001 0.1 10) AC 15m
V2 N001 0 3.3V
X§U2 N004 N002 N001 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R3 N004 Vsig 100
.tran 0 10 0 0.1
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\mjach\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
